US09238631B2
b) 4-[2-(benzyloxy)ethoxy]-3-tert-butoxybenzaldehyde
To a stirred solution of 2.95 g (10.8 mmol) 4-[2-(benzyloxy)ethoxy]-3-hydroxybenzaldehyde in 20 ml toluene was added 17.6 g (86. mmol) 1,1-di-tert-butoxy-N,N-dimethylmethanamine drop by drop. The reaction mixture was stirred at room temperature over night. The reaction mixture is diluted with dichloromethane, washed with aqueous sodium hydroxide solution (1N), dried with sodium sulfate and concentrated in vacuo. The crude product is purified by column chromatography (silica gel, hexane/ethylacetate gradient: 7:1→1:99). The desired product was obtained in 43% yield (8.27 g, 27. mmol).

reactant | 4-[2-(benzyloxy)ethoxy]-3-hydroxybenzaldehyde | 10.8 mmol, 2.95 g | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=O)C=C1)O | C16H16O4
reactant | 1,1-di-tert-butoxy-N,N-dimethylmethanamine | 17.6 g | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[2-(benzyloxy)ethoxy]-3-tert-butoxybenzaldehyde | 43% yield | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=O)C=C1)OC(C)(C)C | C20H24O4
